US06927228B2
(h) (S)-2-Ethoxy-3-{3′-[(methyloctanoyl-amino) methyl]biphenyl-4-yl}propionic acid
In a manner similar to that of Example 13(c), by reacting 180 mg (0.4 mmol) of methyl (S)-2-ethoxy-3-{3′-[(methyloctanoylamino)methyl]biphenyl-4-yl}propionate with 17 mg (0.4 mmol) of lithium hydroxide monohydrate, and after purification by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture (50/50), 130 mg (74%) of the expected product are obtained in the form of a colorless oil.

reactant | methyl (S)-2-ethoxy-3-{3′-[(methyloctanoylamino)methyl]biphenyl-4-yl}propionate | 0.4 mmol, 180 mg | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCCC)=O)C | C28H39NO4
reactant | lithium hydroxide monohydrate | 0.4 mmol, 17 mg | O.[OH-].[Li+]
product | (S)-2-Ethoxy-3-{3′-[(methyloctanoyl-amino) methyl]biphenyl-4-yl}propionic acid | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCCC)=O)C | C27H37NO4
